US06964961B2
B. 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-3-ylamide
The title compound was prepared from 2-methyl-1H-indol-5-ylamine and 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-3-ylamide by a procedure analogous to Example 1C. MS: 400 (MH+), HPLC Rf: 4.58 min.; HPLC purity 99%.

reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)C1=CC2=NC=CC(=C2S1)Cl | C13H8ClN3OS
product | 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C22H17N5OS
